data/oMe_Silver.jsonl
{"reaction_id": "NR-002_1-c1ccc(C(F)(F)F)cc1_2-C(=O)OC","name": "Acid-catalyzed Aldol addition","level": "easy","reactants_smiles": ["C(=O)(c1ccc(C(F)(F)F)cc1)CC(=O)OC","C(=O)(c1ccc(C(F)(F)F)cc1)CC(=O)OC"],"products_smiles": ["C(=O)(c1ccc(C(F)(F)F)cc1)C(C(=O)OC)C(O)(CC(=O)OC)c1ccc(C(F)(F)F)cc1"],"conditions": "Acid (H3O+)","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=CC(=O)OC)(O)c1ccc(C(F)(F)F)cc1","rationale": "Acid catalysis protonates the carbonyl oxygen, increasing α-proton acidity and enabling enol formation via resonance stabilization of the resulting cation."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[OH+]=C(c1ccc(C(F)(F)F)cc1)CC(=O)OC","rationale": "Protonation of the second carbonyl oxygen enhances its electrophilicity by withdrawing electron density, making it more susceptible to nucleophilic attack."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "[OH+]=C(c1ccc(C(F)(F)F)cc1)C(C(=O)OC)C(O)(CC(=O)OC)c1ccc(C(F)(F)F)cc1","rationale": "The nucleophilic enol π-system attacks the activated carbonyl carbon, favored by strong electrophilicity and minimal steric hindrance at the reaction site."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "O=C(c1ccc(C(F)(F)F)cc1)C(C(=O)OC)C(O)(CC(=O)OC)c1ccc(C(F)(F)F)cc1","rationale": "Deprotonation restores the neutral β-hydroxyketone, driven by the stability of the carbonyl and alcohol functional groups under acidic workup."}],"description": "Under acidic conditions, one carbonyl is activated toward enolization, generating an electrophilic partner and a nucleophilic enol. The enol attacks the protonated carbonyl, forming a new C–C bond. Subsequent proton transfers regenerate the carbonyl and yield the β-hydroxyketone product."}
{"reaction_id": "NR-135_1-c1nccs1_2-C(F)(F)F_3-C(=O)OC_4-C1CCCCC1","name": "Luche Reduction","level": "medium","reactants_smiles": ["C(c1nccs1)(C(F)(F)F)=C(C(=O)OC)C(=O)(C1CCCCC1)","[Na+].[BH4-]","Cl[Ce](Cl)Cl","CO"],"products_smiles": ["C(c1nccs1)(C(F)(F)F)=C(C(=O)OC)C(O)(C1CCCCC1)"],"conditions": "NaBH4, CeCl3, MeOH","mechanism": [{"step": 1,"type": "coordination","subtype": "lewis_acid_base_coordination","intermediate_smiles": "C(c1nccs1)(C(F)(F)F)=C(C(=O)OC)C(=[O+][Ce-](Cl)(Cl)Cl)(C1CCCCC1)","rationale": "CeCl3, a strong Lewis acid, coordinates to the carbonyl oxygen, withdrawing electron density and increasing the partial positive charge on the carbonyl carbon, making it more susceptible to nucleophilic attack."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(c1nccs1)(C(F)(F)F)=C(C(=O)OC)C(O[Ce-](Cl)(Cl)Cl)(C1CCCCC1)","rationale": "NaBH4 delivers hydride to the activated carbonyl carbon; Ce coordination reduces conjugation with the alkene, favoring 1,2-addition over 1,4-addition under these mild conditions."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1nccs1)(C(F)(F)F)=C(C(=O)OC)C(O)(C1CCCCC1)","rationale": "The alkoxide–cerium complex is protonated by methanol, a protic solvent, to yield the neutral alcohol and regenerate the Lewis acid catalyst."}],"description": "CeCl3 coordinates to the carbonyl oxygen, enhancing electrophilicity and directing NaBH4 reduction selectively to the carbonyl over the conjugated alkene. Hydride addition yields an alkoxide–cerium complex, which is then protonated in methanol to give the allylic alcohol."}
